US07442851B2
Isoformononetin, 2′-hydroxyformononetin, 3′-hydroxyformononetin (calycosin) and pseudobaptigenin were purchased from Apin (Abingdon, UK). Maackiairi and pisatin were kindly provided by Dr. H. D. VanEtten, (University of Arizona, Tucson). Maackiain glucoside and maackiain glucose malonate standards were gifts from Dr. S. Tebayashi (Kochi University, Japan). Medicarpin was from a lab collection. Other isoflavonoids were from Indofine Chemical Company (Somerville, N.J.). CO was obtained from Aldrich and all other chemicals were from Sigma (St. Louis, Mo.).

reactant | Isoformononetin | COC1=CC2=C(C=C1)C(=O)C(=CO2)C3=CC=C(C=C3)O | C16H12O4
reactant | 2′-hydroxyformononetin | COC1=CC(=C(C=C1)C2=COC3=C(C2=O)C=CC(=C3)O)O | C16H12O5
reactant | 3′-hydroxyformononetin | COC1=C(C=C(C=C1)C2=COC3=C(C2=O)C=CC(=C3)O)O | C16H12O5
reactant | pseudobaptigenin | C1OC2=C(O1)C=C(C=C2)C3=COC4=C(C3=O)C=CC(=C4)O | C16H10O5
product | pisatin | COC1=CC2=C(C=C1)[C@@H]3[C@](CO2)(C4=CC5=C(C=C4O3)OCO5)O | C17H14O6
